US09278950B2
Step 4. Benzyl (2-{[(4-{(3S)-3-[(tert-butoxycarbonyl)amino]piperidin-1-yl}pyridin-3-yl)amino]carbonyl}-7-vinylquinolin-3-yl)carbamate
3-{[(Benzyloxy)carbonyl]amino}-7-vinylquinoline-2-carboxylic acid (0.55 g, 1.6 mmol) was mixed with tert-butyl [(3S)-1-(3-aminopyridin-4-yl)piperidin-3-yl]carbamate (0.46 g, 1.6 mmol), DMF (4.0 mL), HATU (1.2 g, 3.2 mmol) and DIPEA (1.1 mL, 6.3 mmol). The reaction mixture was stirred at room temperature for 16 h. Aq. NaOH (1 M, 20 mL) was then added to the reaction mixture. A precipitate formed, which was collected by vacuum filtration to give the sub-title compound (0.52 g, 53%) as light yellow powder. LCMS calc. for C35H39N6O5 (M+H)+: m/z=623.2. Found: 623.3.

reactant | 3-{[(Benzyloxy)carbonyl]amino}-7-vinylquinoline-2-carboxylic acid | 1.6 mmol, 0.55 g | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)C=C)C(=O)O | C20H16N2O4
reactant | tert-butyl [(3S)-1-(3-aminopyridin-4-yl)piperidin-3-yl]carbamate | 1.6 mmol, 0.46 g | NC=1C=NC=CC1N1C[C@H](CCC1)NC(OC(C)(C)C)=O | C15H24N4O2
reactant | HATU | 3.2 mmol, 1.2 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 6.3 mmol, 1.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaOH | 1 M, 20 mL | [OH-].[Na+]
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
product | Benzyl (2-{[(4-{(3S)-3-[(tert-butoxycarbonyl)amino]piperidin-1-yl}pyridin-3-yl)amino]carbonyl}-7-vinylquinolin-3-yl)carbamate | 0.52 g, 53% | C(C)(C)(C)OC(=O)N[C@@H]1CN(CCC1)C1=C(C=NC=C1)NC(=O)C1=NC2=CC(=CC=C2C=C1NC(OCC1=CC=CC=C1)=O)C=C | C35H38N6O5
